US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-1-yl-phenyl)-amine
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-1-yl-phenyl)-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100.0 mg, 0.3468 mmol) and 1-(4-bromo-phenyl)-piperidine (110.0 mg, 0.4581 mmol) in a manner analogous to Step 2d. The title compound was isolated as a yellow solid (0.039 g, 25%). MP=229-234° C. 1H NMR (400 MHz, CDCl3, δ, ppm):

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.3468 mmol, 100.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 1-(4-bromo-phenyl)-piperidine | 0.4581 mmol, 110.0 mg | BrC1=CC=C(C=C1)N1CCCCC1 | C11H14BrN
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-1-yl-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCCCC2 | C24H25N5O2S
